US07208495B2
N-benzyl-5-(4-(3,4-dimethoxyphenyl)piperidino)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-amine
Using benzylamine and 5-(4-(3,4-dimethoxyphenyl)piperidino)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol obtained in Reference Example 19, the title compound was synthesized in the same manner as in Example 57. Yield 80%. Amorphous state powder.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-(4-(3,4-dimethoxyphenyl)piperidino)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | COC=1C=C(C=CC1OC)C1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C26H35NO4
product | N-benzyl-5-(4-(3,4-dimethoxyphenyl)piperidino)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-amine | Yield 80% | C(C1=CC=CC=C1)NC1C(OC2=C1C(=C(C(=C2C)C)N2CCC(CC2)C2=CC(=C(C=C2)OC)OC)C)(C)C | C33H42N2O3
